US07307073B2
(S)-9-Chloro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one
To a solution of 3-chloro-2-fluorobenzoyl chloride (2.2 g; 11.4 mmol) in di-methylformamide (5 ml) was added triethylamine (1.7 mL; 11.7 mmol) and (S)-(+)-2-pyrrolidinemethanol (1.13 mL; 11.4 mmol). The mixture was stirred for 1 h then caesium carbonate (7.4 g; 22.7 mmol) was added and the reaction heated at 120° C. for 5 hours. The reaction was cooled to room temperature then diluted with water and extracted with ethyl acetate The organics were washed with water and dried (Na2SO4) evaporated in vacuo. The crude product was purified by chromatography on silica (eluting with 5% methanol in dichloromethane). On removal of solvent the pure amide crystallised and heptane/ether was added and the title compound collected (0.26 g). M.p., 89-90° C.; EIMS: m/z=238 [M+H]+

reactant | 3-chloro-2-fluorobenzoyl chloride | 11.4 mmol, 2.2 g | ClC=1C(=C(C(=O)Cl)C=CC1)F | C7H3Cl2FO
reactant | triethylamine | 11.7 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-(+)-2-pyrrolidinemethanol | 11.4 mmol, 1.13 mL | N1[C@@H](CCC1)CO | C5H11NO
reactant | caesium carbonate | 22.7 mmol, 7.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | di-methylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-9-Chloro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one | ClC1=CC=CC=2C(N3[C@H](COC21)CCC3)=O | C12H12ClNO2
